US04409017
A mixture of 3-chloroisoquinoline (18.23 g), m-chloroperbenzoic acid (36.46 g) and benzene (180 ml) was stirred at ambient temperature for a period of 2.5 days. The mixture was diluted with dichloromethane and the resultant solution was washed several times with a aqueous 5% sodium bicarbonate solution and finally with water. The organic phase was dried over anhydrous magnesium sulfate and the solvent was evaporated to give a solid residue. The solid was recrystallised from ethyl acetate to give 3-chloroisoquinoline-2-oxide (6.53 g) as colourless crystals mp 147°-151° C.

reactant | 3-chloroisoquinoline | 18.23 g | ClC=1N=CC2=CC=CC=C2C1 | C9H6ClN
reactant | m-chloroperbenzoic acid | 36.46 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | benzene | 180 ml | C1=CC=CC=C1 | C6H6
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-chloroisoquinoline-2-oxide | 6.53 g | ClC=1[N+](=CC2=CC=CC=C2C1)[O-] | C9H6ClNO
